US06187774B1
In the same manner as in Example 102 except that 3-(5-benzoyl-4,5,6,7-tetrahydro-2H-pyrazolo[4,3-c]pyridin-3-yl)propionic acid obtained in Starting Material Synthesis Example 8 and 1-(4-chlorophenyl)piperazine were used instead of 3-(4,5,6,7-tetrahydro-2H-indazol-3-yl)propionic acid obtained in Stating Material Synthesis Example 1 and 4-(4-chlorophenyl)piperidine, 5-benzyl-3-(3-(4-(4chlorophenyl)piperazin-1-yl)propyl)-4,5,6,7-tetrahydro-2H-pyrazolo[4,3-c]pyridine was obtained.

reactant | 1-(4-chlorophenyl)piperazine | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
reactant | 3-(4,5,6,7-tetrahydro-2H-indazol-3-yl)propionic acid | N=1NC(=C2CCCCC12)CCC(=O)O | C10H14N2O2
product | 4-(4-chlorophenyl)piperidine | ClC1=CC=C(C=C1)C1CCNCC1 | C11H14ClN
